* Dynamic StrongARM comparator; low clock resets, high clock evaluates.
.subckt strongarm voutp voutn vinp vinn clk vdd vss
XRST1 voutp clk vdd vdd sky130_fd_pr__pfet_01v8 w=2 l=0.15 nf=1
XRST2 voutn clk vdd vdd sky130_fd_pr__pfet_01v8 w=2 l=0.15 nf=1
XTAIL tail clk vss vss sky130_fd_pr__nfet_01v8 w=10 l=0.15 nf=2
XINP voutp vinp tail vss sky130_fd_pr__nfet_01v8 w=10 l=0.15 nf=2
XINN voutn vinn tail vss sky130_fd_pr__nfet_01v8 w=10 l=0.15 nf=2
XPL1 voutp voutn vdd vdd sky130_fd_pr__pfet_01v8 w=10 l=0.15 nf=2
XPL2 voutn voutp vdd vdd sky130_fd_pr__pfet_01v8 w=10 l=0.15 nf=2
CCP voutp vss 200f
CCN voutn vss 200f
.ends strongarm
